US07678795B2
[2-(5-Methyl-1-phenyl-1H-pyrazol-4-yl)-2-oxo-ethyl]-phosphonic acid dimethyl ester (1.1 g) in tert-butanol (60 mL) at RT under an argon atmosphere was treated with potassium tert-butoxide (0.412 g) and the mixture was stirred for 30 minutes. Then (1S,4R)-1,7,7-trimethyl-bicyclo[2.2.1]heptane-2,3-dione (0.499 g) was added at RT and the mixture was heated at reflux for 12 h under an argon atmosphere. The reaction mixture was partitioned between water and AcOEt, the layers were separated, the aqueous layer extracted twice with AcOEt. The combined organic layers were washed with water, dried over Na2SO4, filtered and evaporated. The residue was purified by flash chromatography (heptane/AcOEt 100% to 80%) to give (1S,4R)-1,7,7-trimethyl-3-[2-(5-methyl-1-phenyl-1H-pyrazol-4-yl)-2-oxo-eth-(E)-ylidene]-bicyclo[2.2.1]heptan-2-one (0.78 g) as a light yellow solid. MS (EI): 348.2 (M+).

reactant | [2-(5-Methyl-1-phenyl-1H-pyrazol-4-yl)-2-oxo-ethyl]-phosphonic acid dimethyl ester | 1.1 g | COP(OC)(=O)CC(=O)C=1C=NN(C1C)C1=CC=CC=C1 | C14H17N2O4P
reactant | potassium tert-butoxide | 0.412 g | CC(C)([O-])C.[K+]
reactant | (1S,4R)-1,7,7-trimethyl-bicyclo[2.2.1]heptane-2,3-dione | 0.499 g | C[C@]12C(C([C@H](CC1)C2(C)C)=O)=O | C10H14O2
solvent | tert-butanol | 60 mL | C(C)(C)(C)O | C4H10O
product | (1S,4R)-1,7,7-trimethyl-3-[2-(5-methyl-1-phenyl-1H-pyrazol-4-yl)-2-oxo-eth-(E)-ylidene]-bicyclo[2.2.1]heptan-2-one | 0.78 g | C[C@]12C(/C(/[C@H](CC1)C2(C)C)=C/C(=O)C=2C=NN(C2C)C2=CC=CC=C2)=O | C22H24N2O2
